US06653308B2
N-[2-hydroxy-3-(2H-tetraazol-2-yl)propyl]-2,4-dimethyl-5-[(Z)-[2-oxo-5-(trifluoromethoxy)-1,2-dihydro-3H-indol-3-ylidene]methyl)-1H-pyrrole-3-carboxamide (Compound 24) (general procedure)
72 mg of 3-(2-H-tetraazol-2-yl)]-2-hydroxy-1-aminopropane was added to the slurry of 121.5 mg (0.25 mmol) of 5-[(Z)-(5-trifluoromethoxy-2-oxo-1,2-dihydro-3H-indol-3-ylidene)methyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid 1-oxy-7-azabenztriazole ester [prepared by activating (3Z)-3-((3,3-dimethyl-4-carboxy-1-H-pyrrol-2-yl)methylene)-5-trifluoromethoxy-1,3-dihydro-2H-indol-2-one (1.768 g; 4.8 mmol) with the HATU reagent (1.758 g; 4.8 mmol) in the presence of Hunig base (9.0 mmol; 1.58 ml) in DMF (25 ml) and isolated in pure form by evaporation and precipitation with anhydrous acetonitrile and drying on high vacuum in 85.5% yield (1.929 g)] in anhydrous dimethylacetamide (1.5 ml). The mixture was stirred for 30 min and evaporated on highvac. The residue was suspended in a mixture methanol-diethylamine 20:1 (3 ml), allowed to crystallize in the refrigerator (5° C.) for 1 hr, filtered, the precipitate was washed with ice-cold methanol and dried on highvac. Y=113 mg of an orange crystalline solid.

reactant | 2-hydroxy-1-aminopropane | OC(CN)C | C3H9NO
reactant | (3Z)-3-((3,3-dimethyl-4-carboxy-1-H-pyrrol-2-yl)methylene)-5-trifluoromethoxy-1,3-dihydro-2H-indol-2-one | 4.8 mmol, 1.768 g | CC1(C(NC=C1C(=O)O)\C=C\1/C(NC2=CC=C(C=C12)OC(F)(F)F)=O)C | C17H15F3N2O4
reactant | HATU | 4.8 mmol, 1.758 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Hunig base | 9.0 mmol, 1.58 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | acetonitrile | C(C)#N | C2H3N
product | N-[2-hydroxy-3-(2H-tetraazol-2-yl)propyl]-2,4-dimethyl-5-[(Z)-[2-oxo-5-(trifluoromethoxy)-1,2-dihydro-3H-indol-3-ylidene]methyl)-1H-pyrrole-3-carboxamide | 85.5% yield | OC(CNC(=O)C1=C(NC(=C1C)\C=C\1/C(NC2=CC=C(C=C12)OC(F)(F)F)=O)C)CN1N=CN=N1 | C21H20F3N7O4
